US07851474B2
Step 2. Preparation of 1-{4-[4-(4-cyclobutyl-piperazine-1-carbonyl)-piperazin-1-yl]-phenyl}-ethanone
To a solution of 1-{4-[4-(imidazole-1-carbonyl)-piperazin-1-yl]-phenyl}-ethanone (8 mmol) in acetonitrile (15 mL) is added MeI (32 mmol). The mixture is stirred at rt for 24 h. Solvent is removed in vacuo to yield a light yellow solid. The solid is dissolved in DCM (40 mL), followed by the addition of 1-cyclobutylpiperazine (8 mmol) and TEA (8 mmol). The mixture is stirred at rt for 24 h, washed with aqueous sodium bicarbonate (20 mL). The organic layer is dried over MgSO4 and solvent removed to give the crude product, which is purified by column chromatography (5% MeOH in DCM) to give the pure title compound. 1H NMR (300 MHz, CDCl3) δ 7.87 (d, 2H), 6.86 (d, 2H), 3.49-3.33 (m, 12H), 2.76-2.71 (m, 1H), 2.53 (s, 3H), 2.32 (t, 4H), 2.05-2.01 (m, 2H), 1.91-1.85 (m, 2H), 1.76-1.69 (m, 2H); LC-MS (M+1) 371.1.

reactant | 1-{4-[4-(imidazole-1-carbonyl)-piperazin-1-yl]-phenyl}-ethanone | 8 mmol | N1(C=NC=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C16H18N4O2
reactant | MeI | 32 mmol | CI | CH3I
reactant | 1-cyclobutylpiperazine | 8 mmol | C1(CCC1)N1CCNCC1 | C8H16N2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[4-(4-cyclobutyl-piperazine-1-carbonyl)-piperazin-1-yl]-phenyl}-ethanone | C1(CCC1)N1CCN(CC1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C21H30N4O2
